US04493843
(RS)-2-(n-undecyl)indoline-5-carboxylic acid hydrochloride (32.9 g) in ethanol (150 ml) containing sodium hydroxide (10 g) and water (38 ml) was stirred and refluxed for 1.5 hours. Glacial acetic acid (15 ml) was added to the hot solution and the mixture was cooled to 0° C. and then diluted with water (600 ml). The solid was collected and was recrystallized from methanol to give (RS)-2-(n-undecyl)indoline-5-carboxylic acid (25.7 g), in the form of a white solid, m.p. 99°-103° C.

reactant | (RS)-2-(n-undecyl)indoline-5-carboxylic acid hydrochloride | 32.9 g | Cl.C(CCCCCCCCCC)C1NC2=CC=C(C=C2C1)C(=O)O
reactant | sodium hydroxide | 10 g | [OH-].[Na+]
reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 600 ml | O | H2O
solvent | water | 38 ml | O | H2O
product | (RS)-2-(n-undecyl)indoline-5-carboxylic acid | 25.7 g | C(CCCCCCCCCC)C1NC2=CC=C(C=C2C1)C(=O)O | C20H31NO2
